* MODELLING FOR STGB10NB37LZ
 
.SUBCKT STGB10NB37LZ 1 2 3
LG 10 2 7.5E-09
LE 3 15 7.5E-09
LC 13 1 4.5E-09
RG 10 5 8
RC 14 13 0.922E-02
RE 15 12 0.194E-01
RGE 12 10 15K
RF 7 10 1MEG
RX 4 14 855.864
CGE 12 5 0.781E-09
CCG 17 4 0.363E-08
CK 16 4  0.219E-10
DGE 12 5 DE
DCG 12 11 DG
Q1 12 11 14 Q
M1 11 5 12 12 MOS
E1 16 5 8 7 1
E2 17 5 6 7 1
G1 7 9 11 10 1u
D1  8 9 DI
D2  9 6 DI
D3 16 4 DO
R1 7 8 1MEG
R2 7 6 1MEG
.ENDS STGB10NB37LZ
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 1.774
+ KP    = 30.598
+ THETA = 0.998E-01
 
.MODEL Q PNP
+ IS    = 0.163E-13
+ VAF   = 980.930
+ BF    = 2.853
+ NE    = 1.811
+ ISE   = 0.124E-11
+ IKF   = 28.763
+ BR    = 0.964E-01
+ NC    = 2.824
+ NK    = 0.658
+ TF    = 1E-06
+ ITF   = 0.1
+ VTF   = 1
+ XTF   = 0.1
 
.MODEL DI D
+ IS    = 0.01E-12
+ RS    = 0
 
.MODEL DO D
+ IS    = 0.01E-12
+ CJO   = 50E-12
+ VJ    = 0.75
+ M     = 0.35
 
.MODEL DE D
+ IS    = 0.01E-12
+ BV    = 14.3
+ N     = 2
 
.MODEL DG D
+ IS    = 0.01E-12
+ BV    = 400
+ VJ    = 0.75
+ M     = 0.35
 
* END OF MODELLING

